US05922703
(3β,5β,14β,17β)-14-Amino-3-[[[[2-hydroxy-1-(phenylmethyl)ethyl]amino]carbonyl]oxy]androstane-17-carboxylic Acid, Methyl Ester Hydrochloride
To a solution of 1.4 g (0.004 mole) of (3β,5β,14β,17β)-14-Amino-3-hydroxyandrostane-17-carboxylic Acid, Methyl Ester, prepared according to the procedure described in U.S. Pat. No. 4,885,280, incorporated by reference herein, in 40 ml of CH2Cl2 under N2 and stirring, is added 0.72 g (0.0044 mole) of 1,1'-carbonyldiimidazole. The solution is allowed to stir for 2 days and then 1.8 g (0.012 mole) of (S)-2-amino-3-phenyl-1-propanol is added. No product appeared to form (TLC) after 3 days of stirring and an additional 0.6 g (0.004 mole) of the amine is added and the solution is heated at boiling for 2 days. After cooling to ambient temperature, the solution is allowed to stir further for an additional 10 days. The solution is concentrated at reduced pressure and the residue is taken up with fresh CH2Cl2. The solution is washed with water until the washing is neutral. After drying over MgSO4, CH2Cl2 is removed under reduced pressure and the residual solid is purified by flash chromatography (5% MeOH/CH2Cl2, NH4OH). The fractions are combined and concentrated to yield the free base which is treated with ethanolic HCl to yield (3β(S),5β,14β,17β)-14-Amino-3-[[[[2-hydroxy-1-(phenylmethyl)ethyl]amino]carbonyl]oxy]androstane-17-carboxylic Acid, Methyl Ester Hydrochloride Final Product.

reactant | (3β,5β,14β,17β)-14-Amino-3-hydroxyandrostane-17-carboxylic Acid, Methyl Ester | 0.004 mole, 1.4 g | N[C@]12CC[C@@H]([C@@]1(C)CC[C@@H]1[C@]3(CC[C@@H](C[C@H]3CC[C@@H]21)O)C)C(=O)OC | C21H35NO3
reactant | 1,1'-carbonyldiimidazole | 0.0044 mole, 0.72 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-2-amino-3-phenyl-1-propanol | 0.012 mole, 1.8 g | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | (3β,5β,14β,17β)-14-Amino-3-[[[[2-hydroxy-1-(phenylmethyl)ethyl]amino]carbonyl]oxy]androstane-17-carboxylic Acid, Methyl Ester Hydrochloride | Cl.N[C@]12CC[C@@H]([C@@]1(C)CC[C@@H]1[C@]3(CC[C@@H](C[C@H]3CC[C@@H]21)OC(=O)NC(CO)CC2=CC=CC=C2)C)C(=O)OC | InChI=1S/C31H46N2O5.ClH/c1-29-14-11-23(38-28(36)33-22(19-34)17-20-7-5-4-6-8-20)18-21(29)9-10-25-24(29)12-15-30(2)26(27(35)37-3)13-16-31(25,30)32;/h4-8,21-26,34H,9-19,32H2,1-3H3,(H,33,36);1H/t21-,22?,23+,24+,25-,26-,29+,30-,31+;/m1./s1
